US04592857
2,3-Dicyano-5-(4-propylphenyl)pyrazine
This 4-propylphenylglyoxal (8.0 g, 0.05 mol) and diaminomaleonitrile (5.4 g, 0.05 mol) were dissolved in benzene (50 ml), followed by adding p-toluenesulfonic acid (0.05 g) to the solution, reacting them on heating under reflux for 3 hours, while distilling off water formed, allowing the reaction liquid to cool down to room temperature after completion of the reaction, adding water (50 ml), separating the resulting two layers, twice washing the benzene solution with 5% sodium bicarbonate solution (50 ml), further washing it with water, drying it with anhydrous sodium sulfate, distilling off benzene from the solution, and recrystallizing a remaining solid material from ethanol (10 ml) to obtain the objective product (8.9 g).

reactant | 4-propylphenylglyoxal | 0.05 mol, 8.0 g | C(CC)C1=CC=C(C=C1)C(=O)C=O | C11H12O2
reactant | diaminomaleonitrile | 0.05 mol, 5.4 g | N/C(=C(/C#N)\N)/C#N | C4H4N4
reactant | water | 50 ml | O | H2O
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
catalyst | p-toluenesulfonic acid | 0.05 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2,3-Dicyano-5-(4-propylphenyl)pyrazine | 8.9 g | C(#N)C1=NC=C(N=C1C#N)C1=CC=C(C=C1)CCC | C15H12N4
